US04892870
A stirred mixture of 1.1 g (5 mmol) dihydro-4-bromo-2-isopropyl-2H-1,2-oxazin-3(4H)-one, 1.2 g (5 mmol) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 1 g of zinc dust in 20 ml of benzene were refluxed for 15 hours and concentrated. The concentrate was taken up in methylene chloride and chromatographed on silica gel with 30% ethyl acetate-hexane to yield 1.2 g of dihydro-4-[(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxymethyl]-2-isopropyl-2H-1,2-oxazin-3(4H)-one, mp 150°-153° C.

reactant | dihydro-4-bromo-2-isopropyl-2H-1,2-oxazin-3(4H)-one | 5 mmol, 1.1 g | BrC1C(N(OCC1)C(C)C)=O | C7H12BrNO2
reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 5 mmol, 1.2 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | zinc | 1 g | [Zn] | Zn
product | dihydro-4-[(3,5-di-tert-butyl-4-hydroxyphenyl)hydroxymethyl]-2-isopropyl-2H-1,2-oxazin-3(4H)-one | 1.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C1C(N(OCC1)C(C)C)=O)O | C22H35NO4
